US05888421
Step 2.1 2-Pent-1-ynylthiophene.
A solution of n-butyllithium (10.0 ml, 10.0M in hexane, 0.10 mol) is added dropwise to a stirred cooled (-5° to 0° C.) solution of pent-1-yne (6.80 g, 0.10 mol) in dry THF under dry nitrogen. This mixture is stirred for 10 minutes and then a solution of dry zinc chloride (13.63 g, 0.10 mol) in dry THF is added dropwise to 2-bromothiophene (16.00 g, 0.098 mol) at a temperature of between -5° C. and 0° C. followed by addition of tetrakis (triphenylphosphine)palladium(O) (3.40 g, 2.94 mol). The mixture is stirred at room temperature overnight (glc analysis revealing a complete reaction) and poured into 10% hydrochloric acid. The product is extracted into ether (×2) and the combined ethereal extracts are washed with aqueous sodium hydrogen carbonate and dried (MgSO4). The solvent is removed in vacuo, then the product is filtered and distilled to yield 12.9 g (88%) colourless liquid.

reactant | n-butyllithium | 0.10 mol, 10.0M, 10.0 ml | C(CCC)[Li]
reactant | pent-1-yne | 0.10 mol, 6.80 g | C#CCCC | C5H8
reactant | 2-bromothiophene | 0.098 mol, 16.00 g | BrC=1SC=CC1 | C4H3BrS
reactant | hydrochloric acid | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
catalyst | zinc chloride | 0.10 mol, 13.63 g | [Cl-].[Zn+2].[Cl-]
product | 2-Pent-1-ynylthiophene | 12.9 g, 88% | C(#CCCC)C=1SC=CC1 | C9H10S
